US06051712
A solution of 4.00 g (20.5 mmol) of (3RS,4RS)-4-(4-fluorophenyl)-piperidin-3-ol in 150 ml of ethanol was treated with 2.80 g (26.4 mmol) of sodium carbonate and refluxed. A solution of 2.50 ml (21.1 mmol) of benzyl bromide in 50 ml of ethanol was added dropwise within one hour and thereafter the mixture was held at reflux temperature for 2 hours. The pale brownish suspension was filtered and the filtrate was concentrated under reduced pressure. Subsequently, the residue was partitioned between methylene chloride and water, the organic phase was dried over magnesium sulphate and finally the solvent was distilled off under reduced pressure. The crude product was chromatographed on silica gel using a 2:3 mixture of ethyl acetate and hexane as the eluent. There were obtained 4.34 g (74% of theory) of (3RS,4RS)-1-benzyl-4-(4-fluoro-phenyl)-piperidin-3-ol as a colourless solid; MS: 285 (M)+.

reactant | (3RS,4RS)-4-(4-fluorophenyl)-piperidin-3-ol | 20.5 mmol, 4.00 g | FC1=CC=C(C=C1)C1C(CNCC1)O | C11H14FNO
reactant | sodium carbonate | 26.4 mmol, 2.80 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl bromide | 21.1 mmol, 2.50 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (3RS,4RS)-1-benzyl-4-(4-fluoro-phenyl)-piperidin-3-ol | 4.34 g, 74% | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC=C(C=C1)F)O | C18H20FNO
